US08633189B2
4-Chloro-2-cyclopentylphenyl methyl carbonate (1.0 g, 3.93 mmol) was added portion wise to H2SO4 (2.9 mL, 54.1 mmol) to generate a colorless homogeneous solution. The solution was then cooled to 0° C. and KNO3 (476 mg, 4.71 mmol) was added portion-wise maintaining the internal temperature below 5° C. The reaction was stirred for 2 h and then poured on ice water. The aqueous layer was extracted with dichloromethane (3×10 mL), dried over Na2SO4, filtered and concentrated. Purification by silica gel chromatography (10% EtOAc/hexane) provided 4-chloro-2-cyclopentyl-5-nitrophenyl methyl carbonate (1021 mg, 87% yield). 1H NMR (400.0 MHz, DMSO-d6) δ 7.74 (s, 1H), 7.39 (s, 1H), 5.23 (s, 1H), 3.92-3.88 (m, 3H), 3.13-3.06 (m, 2H), 2.04-1.96 (m, 2H), 1.81-1.62 (m, 2H), 1.53-1.44 (m, 2H).

reactant | 4-Chloro-2-cyclopentylphenyl methyl carbonate | 3.93 mmol, 1.0 g | C(OC1=C(C=C(C=C1)Cl)C1CCCC1)(OC)=O | C13H15ClO3
reactant | H2SO4 | 54.1 mmol, 2.9 mL | OS(=O)(=O)O | H2O4S
reactant | KNO3 | 4.71 mmol, 476 mg | [N+](=O)([O-])[O-].[K+]
product | 4-chloro-2-cyclopentyl-5-nitrophenyl methyl carbonate | 1021 mg, 87% yield | C(OC1=C(C=C(C(=C1)[N+](=O)[O-])Cl)C1CCCC1)(OC)=O | C13H14ClNO5
